US08017773B2
Step 2: 4-Cyano-N-[4-(piperazine-1-carbonyl)-cyclohexyl]-benzenesulfonamide
A mixture of 1.9 g (4.7 mmol) trans-4-(4-cyano-benzenesulfonylamino)-cyclohexanecarboxylic acid benzyl ester and 0.8 g (1.9 mmol) LiOH in a mixture of methanol, THF and water was stirred at room temperature for 2 h. The mixture was evaporated to dryness and 10 mL DMF, 0.7 g (8.1 mmol) piperazine, 2.87 g (8.9 mmol) TBTU and 2.26 g (22 mmol) NEt3 was added. The mixture was stirred at room temperature for 1 h and evaporated to dryness. The residue was purified by column chromatography on silica obtaining 0.3 g (16%) of the title compound. MS (m/e): 377.1 (MH+).

reactant | trans-4-(4-cyano-benzenesulfonylamino)-cyclohexanecarboxylic acid benzyl ester | 4.7 mmol, 1.9 g | C(C1=CC=CC=C1)OC(=O)[C@@H]1CC[C@H](CC1)NS(=O)(=O)C1=CC=C(C=C1)C#N | C21H22N2O4S
reactant | LiOH | 1.9 mmol, 0.8 g | [Li+].[OH-]
reactant | piperazine | 8.1 mmol, 0.7 g | N1CCNCC1 | C4H10N2
reactant | TBTU | 8.9 mmol, 2.87 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | NEt3 | 22 mmol, 2.26 g | CCN(CC)CC | C6H15N
solvent | methanol | CO | CH4O
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
solvent | THF | C1CCOC1 | C4H8O
product | 4-Cyano-N-[4-(piperazine-1-carbonyl)-cyclohexyl]-benzenesulfonamide | C(#N)C1=CC=C(C=C1)S(=O)(=O)NC1CCC(CC1)C(=O)N1CCNCC1 | C18H24N4O3S
